* a modest addition to potentiometers_standard.lib
* by Helmut Sennewald, 12/23/2003 V1.1
*
* this adds a reverse log (audio) pot by a simple edit to
* pot_nlog

* REVERSE AUDIO POT subcircuit
.SUBCKT pot_ra 1 2 3
* Parameters: Rtot, wiper, Rtap, Tap
.param w=limit(0.01m,wiper,0.99999)
*
.param pwrexp=ln(RTAP/RTOT)/(TAP)
.param ratio=1-exp(pwrexp*(w))
*
R1 1 3 {Rtot*(1-ratio)}
R2 3 2 {Rtot*(ratio)}
.ENDS