*Electric Guitar Pickup with Signal Generator SPICE Subcircuits
*
*VG1=Sine Wave Generator (100mV P-P 440Hz)
*XP1=Volume Control (250kOhms 99 Percent Maximum)
*XP2=Tone Control (250kOhms 99 Percent Maximum)
*C1=Pickup Capacitance (120pF)
*C2=Tone Capacitor (.022uF)
*R1=Pickup Resistance (10kOhms)
*L1=Pickup Inductance (2.5H)
*
*
*Connections:***OUT
**************| GND
**************| |
.SUBCKT EGUITAR 1 2
VG1 5 1 DC 0 AC 1 0
+ SIN( 0 100M 440 0 0 0 )
XP2 3 4 4 PotMeter PARAMS: Res=250K Percent=990M
C2 4 1 22N
XP1 1 3 2 PotMeter PARAMS: Res=250K Percent=990M
C1 3 1 120P
R1 6 5 10K
L1 3 6 2.5
.ENDS